US04500341
135 g (0.3 mol) of 5-(2,6-dichloro-4-trifluoromethylphenoxy)-2-nitro-α-phenoxy-propionic acid methyl ester and 30 ml of concentrated aqueous sodium hydroxide solution were stirred in 400 ml of acetonitrile and 150 ml of water at 20° C. for 24 hours. The solution was concentrated, the residue was taken up in 500 ml of water and the aqueous mixture was acidified with 50 ml of concentrated hydrochloric acid. 93 g (71% of theory) of 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-α-phenoxy-propionic acid were obtained in the form of pale yellow crystals of melting point 146° C. (after recrystallization from toluene/cyclohexane).

reactant | 5-(2,6-dichloro-4-trifluoromethylphenoxy)-2-nitro-α-phenoxy-propionic acid methyl ester | 0.3 mol, 135 g | COC(C(C)(OC1=CC=CC(=C1)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl)[N+](=O)[O-])=O | C17H12Cl2F3NO6
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | water | 150 ml | O | H2O
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-α-phenoxy-propionic acid | 93 g, 71% | ClC1=C(OC=2C=CC=C(OC(C(=O)O)(C)[N+](=O)[O-])C2)C(=CC(=C1)C(F)(F)F)Cl | C16H10Cl2F3NO6
